US05962458
Sodium hydride (946 mg of a 50% suspension in mineral oil, 19.7 mmol) was added to a solution of 4-hydroxypyridine (1.88 g, 1 9.7 mmol) in DMF (50 ml) and the mixture stirred for 30 minutes. 2-(3 -Bromopropoxy)tetrahydropyran (4.0 g, 17.9 mmol), (J. Chem. Soc. 1963, 3440), was added and the mixture heated at 100° C. for 3 hours. The reaction mixture was allowed to cool, diluted with water and extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol mixtures (100/0 increasing to 95/5) to give 1-[3-(tetrahydropyran-2-yloxy)propyl]-1,4-dihydro-4-pyridone (1.5 g, 35%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-hydroxypyridine | 9.7 mmol, 1.88 g | OC1=CC=NC=C1 | C5H5NO
reactant | 2-(3 -Bromopropoxy)tetrahydropyran | 17.9 mmol, 4.0 g | BrCCCOC1OCCCC1 | C8H15BrO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[3-(tetrahydropyran-2-yloxy)propyl]-1,4-dihydro-4-pyridone | 1.5 g, 35% | O1C(CCCC1)OCCCN1C=CC(C=C1)=O | C13H19NO3
